US06350759B1
1-tert-Butylcarbonyloxy-4-nitrobenzene
161.1 mmol (19.48 g) of pivaloyl chloride are added, at 0° C., to a solution of 107.8 mmol (15 g) of 4-nitrophenol in 250 ml of pyridine. The reaction mixture is stirred for 72 hours at ambient temperature. The reaction mixture is evaporated in vacuo and the oily residue is diluted with ethyl acetate and then washed with aqueous hydrochloric acid solution (0.1N) and then with 10% aqueous sodium chloride solution. The expected product is obtained by drying the organic phase and then concentrating.

reactant | pivaloyl chloride | 161.1 mmol, 19.48 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 4-nitrophenol | 107.8 mmol, 15 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 1-tert-Butylcarbonyloxy-4-nitrobenzene | C(C)(C)(C)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H13NO4
